US05262390
A solution of 3.25 g (0.0123 mole) of 2-(4-isopropoxy-2-fluorophenyl)-1,2,4-triazine-3,5-dione in 30 mL of N,N-dimethylformamide was added to a suspension of 0.50 g (0.0125 mole) of sodium hydride in 30 mL of N,N-dimethylformamide at ambient temperature. When gas evolution had ceased, 3.55 g (0.025 mole) of iodomethane was added in one portion. This mixture was stirred for one hour without heating and was then poured into 300 mL of dilute hydrochloric acid. The resulting mixture was extracted several times with diethyl ether, and the extracts were combined. The ether extract was washed in succession with water and a saturated aqueous solution of sodium chloride. It was then dried over anhydrous magnesium sulfate and filtered through a short column of silica gel. The solvent was evaporated under reduced pressure, leaving 2.80 g of 2-(4-isopropoxy-2-fluorophenyl)-4-methyl-1,2,4-triazine-3,5-dione as a syrup. The NMR was consistent with the proposed structure.

reactant | 2-(4-isopropoxy-2-fluorophenyl)-1,2,4-triazine-3,5-dione | 0.0123 mole, 3.25 g | C(C)(C)OC1=CC(=C(C=C1)N1N=CC(NC1=O)=O)F | C12H12FN3O3
reactant | sodium hydride | 0.0125 mole, 0.50 g | [H-].[Na+]
reactant | iodomethane | 0.025 mole, 3.55 g | IC | CH3I
reactant | hydrochloric acid | 300 mL | Cl | ClH
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 2-(4-isopropoxy-2-fluorophenyl)-4-methyl-1,2,4-triazine-3,5-dione | 2.80 g | C(C)(C)OC1=CC(=C(C=C1)N1N=CC(N(C1=O)C)=O)F | C13H14FN3O3
